US04835181
N-(2,6-dimethylphenyl)-4-(trifluoromethyl)benzamide
A solution of 25 g of 4-trifluoromethylbenzoyl chloride in tetrahydrofuran was added to 14.5 g of 2,6-dimethylaniline and 16.7 ml of triethylamine in tetrahydrofuran. The reaction was stirred at ambient temperature overnight, chilled, and filtered. The filtrate was evaporated in vacuo and the residue therefrom was dissolved in chloroform, washed sequentially with 1M hydrochloric acid, 1M sodium hydroxide, water, and a saturated sodium chloride solution, dried over sodium sulfate, filtered, and evaporated in vacuo. Crystallization from methanol provided the desired title product in 85% yield, m.p. 206°-207° C.

reactant | 4-trifluoromethylbenzoyl chloride | 25 g | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | 2,6-dimethylaniline | 14.5 g | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | triethylamine | 16.7 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-(2,6-dimethylphenyl)-4-(trifluoromethyl)benzamide | 85% yield | CC1=C(C(=CC=C1)C)NC(C1=CC=C(C=C1)C(F)(F)F)=O | C16H14F3NO
